US05872118
A 30% aqueous ammonium hydroxide solution (1.7 mL, 0.026 mol) was added dropwise to a stirred, chilled (ice bath) solution of (E)-2-(4,6-difluoro-1-indanylidene)acetyl chloride (2.97 g, 0.013 mol) in dichloromethane (50 mL). After 4.5 h the mixture was concentrated in vacuo and the residue was partitioned between 5% aqueous sodium bicarbonate solution and ethyl acetate. The ethyl acetate solution was washed with saturated aqueous sodium chloride, dried over sodium sulfate, filtered and concentrated in vacuo Chromatography on silica gel with ethyl acetate: hexanes (7:3)as eluent and trituration of the resulting solid with pentane gave 1.63 g (60%) of (E)-2-(4,6difluoro-1-indanylidene)acetamide as a white solid: mp 178°-180° C.; NMR (DMSO-d6): d 6.94-7.45 (m, 4H), 6.46 (s, 1H), 2.94-3.00, 3.21-3.27 (2 m's, 4H); steady-state nOe: irradiation at 6.46 d, observed 19% nOe at 7.26 d.

reactant | ammonium hydroxide | 0.026 mol, 1.7 mL | [OH-].[NH4+]
reactant | (E)-2-(4,6-difluoro-1-indanylidene)acetyl chloride | 0.013 mol, 2.97 g | FC1=C2CC/C(/C2=CC(=C1)F)=C\C(=O)Cl | C11H7ClF2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (E)-2-(4,6difluoro-1-indanylidene)acetamide | 1.63 g, 60% | FC1=C2CC/C(/C2=CC(=C1)F)=C\C(=O)N | C11H9F2NO
